US04002647
93.2 g. of 7-methoxycitronellal dissolved in 200 ml. of absolute diethyl ether are added dropwise with ice cooling to a suspension of 7.6 g. of lithium aluminum hydride in 500 ml. of absolute diethyl ether. Subsequently, the mixture is stirred for 30 minutes and decomposed in the cold by the addition of 100 ml. of aqueous ammonium chloride solution. The resulting mass is filtered through diatomaceous earth, the filtrate washed once with saturated aqueous ammonium chloride solution and once with saturated aqueous sodium chloride solution, dried over sodium sulfate and evaporated. The residue is distilled at 0.1 mmHg. There is obtained pure 3,7-dimethyl-7-methoxy-1-octanol of boiling point 87° C./0.1 mmHg; nD20 = 1.4456.

reactant | 7-methoxycitronellal | CC(CCCC(C)(C)OC)CC=O | C11H22O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,7-dimethyl-7-methoxy-1-octanol | CC(CCO)CCCC(C)(OC)C | C11H24O2
